US04227000
A mixture of 5-(5,6-dimethyl-3-pyridylmethyl)-2-nitroamino-4-pyrimidone and 1.1 molar equivalents of 2-(5-methyl-4-imidazolylmethylthio)ethylamine was heated at 130° for 5 hours and heated under reflux in ethanol for 12 hours, evaporated to dryness and the product isolated as 2-[2-(5-methyl-4-imidazolylmethylthio)ethylamino]-5-(5,6-dimethyl-3-pyridylmethyl)-4-pyrimidone monohydrate, m.p. 115° (softening at 98°).

reactant | 5-(5,6-dimethyl-3-pyridylmethyl)-2-nitroamino-4-pyrimidone | CC=1C=C(C=NC1C)CC=1C(NC(=NC1)N[N+](=O)[O-])=O | C12H13N5O3
reactant | 2-(5-methyl-4-imidazolylmethylthio)ethylamine | CC1=C(N=CN1)CSCCN | C7H13N3S
solvent | ethanol | C(C)O | C2H6O
product | 2-[2-(5-methyl-4-imidazolylmethylthio)ethylamino]-5-(5,6-dimethyl-3-pyridylmethyl)-4-pyrimidone monohydrate | O.CC1=C(N=CN1)CSCCNC1=NC=C(C(N1)=O)CC=1C=NC(=C(C1)C)C | InChI=1S/C19H24N6OS.H2O/c1-12-6-15(8-21-13(12)2)7-16-9-22-19(25-18(16)26)20-4-5-27-10-17-14(3)23-11-24-17;/h6,8-9,11H,4-5,7,10H2,1-3H3,(H,23,24)(H2,20,22,25,26);1H2
